US08629137B2
Step 3: 6-(5-bromo-pyridin-3-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one
0.18 g (4.00 mmol) sodium hydride (55%, suspension in mineral oil) were added at RT to 1.27 g (3.80 mmol) 6-(5-bromo-pyridin-3-carbonyl)-4-methyl-3H-benzoxazol-2-one in 5 mL DMF. The reaction mixture was stirred for 30 min at RT. Then 0.32 mL (5.00 mmol) iodomethane were added and the mixture was stirred overnight at RT. The reaction mixture was poured onto ice water and the precipitate formed was suction filtered, washed with water and dried i. vac.

reactant | sodium hydride | 4.00 mmol, 0.18 g | [H-].[Na+]
reactant | 6-(5-bromo-pyridin-3-carbonyl)-4-methyl-3H-benzoxazol-2-one | 3.80 mmol | BrC=1C=C(C=NC1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C14H9BrN2O3
reactant | iodomethane | 5.00 mmol, 0.32 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(5-bromo-pyridin-3-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | BrC=1C=C(C=NC1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C15H11BrN2O3
